US04844735
15.0 parts by weight of 2-butyryl-5-(4-n-propylphenyl)-cyclohexane-1,3-dione is reacted with 5.1 parts by weight of ethoxyammonium chloride and 4.5 parts by weight of anhydroud sodium acetate in 120 parts by volume of ethanol, and worked up as in Example 1. There is obtained 2-(ethoxyaminobutylidene)-5-(4-n-propylphenyl)-cyclohexane-1,3-dione (active ingredient No. 4).

reactant | 2-butyryl-5-(4-n-propylphenyl)-cyclohexane-1,3-dione | C(CCC)(=O)C1C(CC(CC1=O)C1=CC=C(C=C1)CCC)=O | C19H24O3
reactant | ethoxyammonium chloride | [Cl-].C(C)O[NH3+]
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-(ethoxyaminobutylidene)-5-(4-n-propylphenyl)-cyclohexane-1,3-dione | C(C)ONCCCC=C1C(CC(CC1=O)C1=CC=C(C=C1)CCC)=O | C21H29NO3
